US05830890
A mixture of butyl 2-(2-nitro-4-trifluoromethylphenoxy)propionate (12.0 g) and iron powder (5 g) in acetic acid (100 ml) was heated to reflux for 1.5 hours. After cooling the reaction mixture was quenched with water and the 2-methyl-6-trifluoromethyl-benzo[1,4]oxazin-3-one (4.49 g, 54% yield) as a grey solid was filtered off and dried mp 142°-4° C.; 1 H NMR (270 Mz): 1.61(3H,d), 4.76(1H,q), 6.7-7.4(2H,m), 8.89(1H,brs) ppm.

reactant | butyl 2-(2-nitro-4-trifluoromethylphenoxy)propionate | 12.0 g | [N+](=O)([O-])C1=C(OC(C(=O)OCCCC)C)C=CC(=C1)C(F)(F)F | C14H16F3NO5
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
catalyst | iron | 5 g | [Fe] | Fe
product | 2-methyl-6-trifluoromethyl-benzo[1,4]oxazin-3-one | 4.49 g, 54% yield | CC1OC2=C(NC1=O)C=C(C=C2)C(F)(F)F | C10H8F3NO2
